US05006552
449 g (3.21 mols) dimedone (5,5-dimethylcyclohexane-1,3-dione) were added to a solution of aqueous potassium hydroxide comprising 166 g of 85% potassium hydroxide (2.52 moles) in 700 ml of water. The mixture was then warmed and a clear orange solution was obtained at 47° C. The solution was then heated to 59° C. and 544 g (3.21 mols) molten 4-chlorobenzyl chloride were added over a period of 1 hour with further heating to 85° C. Heating was continued for a further 21/2 to 3 hours up to a temperature of 100° C. The mixture was then cooled, the solid product filtered off, washed with water and dried in a vacuum oven at 50° C. The crude solid (815 g) was then dissolved in 2400 ml methanol at reflux and 200 ml water added to produce a permanent cloudiness. The mixture was then allowed to cool to room temperature overnight with stirring The solid so obtained was filtered, washed with about 400 ml cold methanol and dried in a vacuum oven to produce 340 g 2-(4-chlorobenzyl)-5,5-dimethylcyclohexane-1,3-dione as a white solid, m.pt. 188°-190° C. Yield: 42%.

reactant | dimedone | 3.21 mols, 449 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | potassium hydroxide | 166 g | [OH-].[K+]
reactant | potassium hydroxide | 2.52 moles | [OH-].[K+]
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | water | 700 ml | O | H2O
product | 2-(4-chlorobenzyl)-5,5-dimethylcyclohexane-1,3-dione | 340 g, Yield: 42% | ClC1=CC=C(CC2C(CC(CC2=O)(C)C)=O)C=C1 | C15H17ClO2
